US05627215
c) (E)-1,5,10,14-tetra-BOC-1,5,10,14-tetraazatetradec-7-ene
A solution of 25.86 g (105 mmol) of 2-(BOC-oxyimino)-2-phenylacetonitrile (Fluka, Switzerland) in 70 ml of THF is added dropwise over a period of 2 h, with stirring, to a solution, cooled to 5° C., of 5.01 g (25 mmol) of (E)-1,5,10,14-tetraazatetradec-7-ene in 50 ml of THF. The reaction mixture is stirred for a further 16 h at room temperature and is then concentrated by evaporation in vacuo. The residue is purified by flash chromatography, over silica gel having an average particle size of 0.04-0.063 mm, using ethyl acetate-hexane (1:3). Concentration of the product-containing fractions by evaporation yields the resinous title compound, Rf value=0.33 (silica gel/ethyl acetate:hexane (1:1)).

reactant | 2-(BOC-oxyimino)-2-phenylacetonitrile | 105 mmol, 25.86 g | C(=O)(OC(C)(C)C)ON=C(C#N)C1=CC=CC=C1 | C13H14N2O3
reactant | (E)-1,5,10,14-tetraazatetradec-7-ene | 25 mmol, 5.01 g | NCCCNC\C=C\CNCCCN | C10H24N4
solvent | THF | 70 ml | C1CCOC1 | C4H8O
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | (E)-1,5,10,14-tetra-BOC-1,5,10,14-tetraazatetradec-7-ene | C(=O)(OC(C)(C)C)NCCCN(C\C=C\CN(CCCNC(=O)OC(C)(C)C)C(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C30H56N4O8
